US07807709B2
(3R,4S)-3-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-((S)-1-phenyl-propylcarbamoyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (3S,4R)-3-hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (200 mg, 0.404 mmol) in ether (12 mL) are successively added (S)-1-phenylpropyl isocyanate (130.4 mg, 0.809 mmol) and AlCl3 (54 mg, 0.404 mmol). The mixture is stirred at RT under nitrogen overnight. (S)-1-phenylpropyl isocyanate (150 μL) and AlCl3 (54 mg, 0.404 mmol) are again added and the mixture further stirred for 5 h. AcOEt is added and the reaction mixture quenched by the addition of an aqueous saturated solution of NaHCO3. The layers are separated and the aqueous one back extracted twice with AcOEt. The combined organic extracts are dried over Na2SO4, filtered and concentrated under reduced pressure. The crude mixture is purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH 100:0 to 95:5) to give the title product TLC, Rf (CH2Cl2/MeOH 95:5)=0.35. MS (LC-MS): 656.2 [M+H]+; tR (HPLC, Nucleosil C18-HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/1.5 min, flow: 1 ml/min): 3.94 min.

reactant | (3S,4R)-3-hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.404 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CO | C26H42N2O7
reactant | (S)-1-phenylpropyl isocyanate | 0.809 mmol, 130.4 mg | C1(=CC=CC=C1)[C@H](CC)N=C=O | C10H11NO
reactant | AlCl3 | 0.404 mmol, 54 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | (S)-1-phenylpropyl isocyanate | 150 μL | C1(=CC=CC=C1)[C@H](CC)N=C=O | C10H11NO
reactant | AlCl3 | 0.404 mmol, 54 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | ether | 12 mL | CCOCC | C4H10O
product | (3R,4S)-3-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-((S)-1-phenyl-propylcarbamoyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)[C@@H](C1=CC=CC=C1)OC(NCCC)=O)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C36H53N3O8
